US04187316
1.4 g of methyl 3-(tert-butoxycarbonylamino)-1,5-cyclohexadienecarboxylate is treated with 164 mg of sodium hydroxide in 2 ml of methanol and 1 ml of water. The solution is stirred at about 25° C. for 3 hours, acidified to a pH of 3 with dilute hydrochloric acid and evaporated to dryness in vacuo. The residue is treated with 7 ml of methanol and 3.5 ml of 5% hydrochloric acid for 24 hours at 25° C. after which the solution is concentrated and washed with ether. The aqueous phase is evaporated in vacuo, and the residue is recrystallized from methanol-ether to afford 20 mg of 3-amino-1,5-cyclohexadiene carboxylic acid hydrochloride. M.P. 180°-184° C.

reactant | methyl 3-(tert-butoxycarbonylamino)-1,5-cyclohexadienecarboxylate | 1.4 g | C(C)(C)(C)OC(=O)NC1C=C(C=CC1)C(=O)OC | C13H19NO4
reactant | sodium hydroxide | 164 mg | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | 3-amino-1,5-cyclohexadiene carboxylic acid hydrochloride | 20 mg | Cl.NC1C=C(C=CC1)C(=O)O | InChI=1S/C7H9NO2.ClH/c8-6-3-1-2-5(4-6)7(9)10;/h1-2,4,6H,3,8H2,(H,9,10);1H
